US05728699
Preparation of 4-Chloro-4'-methylsulfonylmethyl-benzophenone-hydrazone (Compound No. I-2)
4-chloro-4'-methylsulfonylmethylbenzophenone (10.0 g) and hydrazine monohydrate (4.9 g) were added to ethanol (200 ml) and acetic acid (10 ml), and the mixture was stirred for 6 hours under reflux. The reaction mixture was concentrated, and the residue was extracted with ethyl acetate. The ethyl acetate layer was washed with water and then dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1) to obtain the desired product (10.0 g, melting point: 52° to 54° C., yield: 97%)

reactant | 4-chloro-4'-methylsulfonylmethylbenzophenone | 10.0 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)CS(=O)(=O)C)C=C1 | C15H13ClO3S
reactant | hydrazine monohydrate | 4.9 g | O.NN
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4-Chloro-4'-methylsulfonylmethyl-benzophenone-hydrazone | 10.0 g, yield: 97% | ClC1=CC=C(C(C2=CC=C(C=C2)CS(=O)(=O)C)=NN)C=C1 | C15H15ClN2O2S
